US07910588B2
Dissolve 3′-[4-(1-Ethyl-5-methyl-1H-pyrazol-4-ylmethyl)-piperazin-1-yl]-3,4,5,6-tetrahydro-2H-[1,2]bipyridinyl-4-ol (415 g, 1.079 mol)) in ethanol (5.5 liters) and methyl t-butyl ether (6.23 liters). Stir the solution under a nitrogen atmosphere and heat to 50-55° C. Add 2.96 M HCl solution in ethanol (0.729 L) at 50-55° C. over 50 min. Allow the mixture to cool to about 40.1° C. over 90 min. Cool the mixture to 20° C. over 20 min., and then stir at 20° C. for 30 min. Filter the mixture and wash with methyl t-butyl ether (3×500 mL). Dry the solid in a vacuum oven at 50-55° C. under vacuum with a slight nitrogen sweep for 24 hr. to provide 3′-[4-(1-ethyl-5-methyl-1H-pyrazol-4-ylmethyl)-piperazin-1-yl]-3,4,5,6-tetrahydro-2H-[1,2]bipyridinyl-4-ol dihydrochloride (416 g, 84.3%). 1H NMR 500 MHz (CD3OD) δ 7.89 (dd, J=6.0 Hz, 2H), 7.828 (s, 1H), 7.275 (dd, J=6.0 Hz, 1H), 4.86 (CD3OH), 4.385 (s, 2H), 4.220 (q, J=7.1 Hz, 2H), 4.04 (bm, 2H), 3.976 (bm, 1H), 3.70 (bm, 4H), 3.511 (bm, 2H), 3.410 (bt, 2H), 3.145 (t, J=8.1, 2H), 2.467 (s, 3H), 2.082 (bm, 2H), 1.716 (bm, 2H), 1.416 (t, J=7.5 Hz, 3H). Chloride analysis is obtained by ICP/MS (15.6%).

reactant | 3′-[4-(1-Ethyl-5-methyl-1H-pyrazol-4-ylmethyl)-piperazin-1-yl]-3,4,5,6-tetrahydro-2H-[1,2]bipyridinyl-4-ol | 1.079 mol, 415 g | C(C)N1N=CC(=C1C)CN1CCN(CC1)C=1C(=NC=CC1)N1CCC(CC1)O | C21H32N6O
reactant | HCl | 2.96 M | Cl | ClH
solvent | ethanol | 5.5 liters | C(C)O | C2H6O
solvent | methyl t-butyl ether | 6.23 liters | C(C)(C)(C)OC | C5H12O
solvent | ethanol | 0.729 L | C(C)O | C2H6O
product | 3′-[4-(1-ethyl-5-methyl-1H-pyrazol-4-ylmethyl)-piperazin-1-yl]-3,4,5,6-tetrahydro-2H-[1,2]bipyridinyl-4-ol dihydrochloride | 416 g, 84.3% | Cl.Cl.C(C)N1N=CC(=C1C)CN1CCN(CC1)C=1C(=NC=CC1)N1CCC(CC1)O | InChI=1S/C21H32N6O.2ClH/c1-3-27-17(2)18(15-23-27)16-24-11-13-25(14-12-24)20-5-4-8-22-21(20)26-9-6-19(28)7-10-26;;/h4-5,8,15,19,28H,3,6-7,9-14,16H2,1-2H3;2*1H
